US07202363B2
tert-butyl 5-bromoindoline-1-carboxylate
A suspension of 5-bromo-2,3-dihydro-1H-indole (1.0 g, 5.05 mmol) in diethyl ether (50 mL) was treated with di-tert-butyl-dicarbonate (1.32 g, 6.05 mmol), stirred overnight at room temperature and filtered. The filtrate was diluted with hexanes and concentrated in vacuo until crystal formed. The crystals were collected via filtration to give 1.05 g (70% yield) of the desired product. 1H NMR (300 MHz, DMSO-D6) δ ppm 1.50 (s, 9H), 3.06 (t, J=8.82 Hz, 2H), 3.90 (m, 2H), 7.30 (dd, J=8.48, 2.03 Hz, 1H), 7.37 (m, 1H), 7.56 (s, 1H),

reactant | 5-bromo-2,3-dihydro-1H-indole | 5.05 mmol, 1.0 g | BrC=1C=C2CCNC2=CC1 | C8H8BrN
reactant | di-tert-butyl-dicarbonate | 6.05 mmol, 1.32 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | tert-butyl 5-bromoindoline-1-carboxylate | 1.05 g, 70% yield | BrC=1C=C2CCN(C2=CC1)C(=O)OC(C)(C)C | C13H16BrNO2
